US07777047B2
N-[2-(benzylthio)-2-cyanopropyl]-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide
To a mixture of N-[2-(benzylthio)-3-(hydroxyimino)-2-methylpropyl]-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide (1.00 g) and pyridine (6 ml) was added trifluoromethanesulfonic anhydride (0.40 ml) at 0° C., and the mixture was stirred overnight at room temperature. The reaction mixture was concentrated, 10% aqueous citric acid solution was added to the residue, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The residue was subjected to basic silica gel column chromatography to give the title compound (0.43 g, yield 45%) as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:2, volume ratio). melting point 181-182° C.

reactant | N-[2-(benzylthio)-3-(hydroxyimino)-2-methylpropyl]-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 1.00 g | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C)(C=NO)C | C25H26N4O4S3
reactant | trifluoromethanesulfonic anhydride | 0.40 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | N-[2-(benzylthio)-2-cyanopropyl]-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 0.43 g, yield 45% | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C)(C)C#N | C25H24N4O3S3
